US05436267
1.63 g of 60 wt % sodium hydride were added to 20 ml of tetrahydrofuran under stirring at room temperature, followed by cooling thereof to 0° C. and drop-wise addition thereto of a solution of 8 g of dimethyl 2-nitrobenzylphosphonate in 20 ml of tetrahydrofuran. After completion of the drop-wise addition, the reaction mixture was stirred at 0° C. for 30 minutes, followed by drop-wise addition thereto of 6.2 g of 2-chlorobenzaldehyde. After completion of the drop-wise addition, the resulting mixture was gradually heated up to room temperature, at which stirring was then continued for 17 hours. The reaction mixture was poured into water, subjected to extraction with ethyl acetate, washed with water, and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The resulting residue was purified twice by silica gel column chromatography (first developing solvent:methylene chloride:hexane=7:3, and second developing solvent:methylene chloride:hexane=3:1) to obtain 5.8 g of 2-chloro-2'-nitrostilbene.

reactant | sodium hydride | [H-].[Na+]
reactant | dimethyl 2-nitrobenzylphosphonate | 8 g | [N+](=O)([O-])C1=C(CP(OC)(OC)=O)C=CC=C1 | C9H12NO5P
reactant | 2-chlorobenzaldehyde | 6.2 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-chloro-2'-nitrostilbene | 5.8 g | ClC1=C(C=CC=C1)C=CC1=C(C=CC=C1)[N+](=O)[O-] | C14H10ClNO2
